### PR TITLE
Team_E_project_changed_Line_ex.lean_and_Ray.lean

### PR DESCRIPTION
**Pull request by Noaillesss**
We have finished all the sorrys in the Line_ex.lean, and add three new theorems in Ray.lean.

### CODE REVIEW

File: EuclideanGeometry/Foundation/Axiom/Linear/Line_ex.lean [hunk 1]
```diff
@@ -62,19 +117,188 @@ theorem line_of_pt_pt_eq_ray_toLine {A B : P} (h : B ≠ A) : LIN A B h = Ray.to
...
+    right
+    show (RAY A B h).toDir = -(RAY B A h.symm).toDir
+    exact Ray.todir_eq_neg_todir_of_mk_pt_pt h
+  left
+  show B LiesOn seg_nd.toRay
+  apply Seg_nd.lies_on_toRay_of_lies_on _
+  apply Seg.target_lies_on
+
+/- need to simplify -/
+theorem lies_on_extn_or_rev_extn_iff_lies_on_toLine_of_not_lies_on {A : P} (seg_nd : Seg_nd P) (h : ¬ A LiesInt seg_nd.1) : A LiesOn seg_nd.toLine ↔ (A LiesOn seg_nd.extension) ∨ (A LiesOn seg_nd.reverse.extension) := by
```
Comment (jjdishere) [inline EuclideanGeometry/Foundation/Axiom/Linear/Line_ex.lean:181]: Please make this proof shorter in the future.

**Review by jjdishere — APPROVED** [review]
Great! Please remember to shorten 2 proofs you marked yourself. Thanks. But I notice that currently it cannot parse at Line_ex.lean. Would you please recheck that your file can parse?

**Review by jjdishere — CHANGES_REQUESTED** [review]
The file Line_ex.lean cannot parse at around line 360. Please recheck that it can parse, thank you.
